*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHE451VSN521MQ50Z
*//   Date		: 2024/03/13
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHE451VSN521MQ50Z_20deg-C 1 2
C1 4 2 3.58e-06
C2 5 2 2.19e-04
C3 6 2 2.18e-04
C4 7 2 3.96e-05
R1 3 4 8.22e-02
R2 4 5 1.34e-01
R3 5 6 1.37e-01
R4 6 7 2.00e+01
L1 1 3 2.66e-09
.ENDS


.SUBCKT EKHE451VSN521MQ50Z_-40deg-C 1 2
C1 4 2 5.32e-07
C2 5 2 1.29e-06
C3 6 2 1.46e-05
C4 7 2 2.84e-04
R1 3 4 7.61e-01
R2 4 5 1.51e+01
R3 5 6 2.75e+01
R4 6 7 2.04e+01
L1 1 3 2.66e-09
.ENDS


.SUBCKT EKHE451VSN521MQ50Z_0deg-C 1 2
C1 4 2 4.24e-06
C2 5 2 2.80e-04
C3 6 2 1.62e-04
C4 7 2 2.50e-05
R1 3 4 3.24e-01
R2 4 5 5.74e-01
R3 5 6 1.16e+00
R4 6 7 1.80e+02
L1 1 3 2.66e-09
.ENDS


.SUBCKT EKHE451VSN521MQ50Z_60deg-C 1 2
C1 4 2 3.77e-04
C2 5 2 9.89e-05
C3 6 2 1.61e-05
C4 7 2 1.24e-05
R1 3 4 4.75e-02
R2 4 5 1.92e-01
R3 5 6 4.33e+01
R4 6 7 1.00e+03
L1 1 3 2.66e-09
.ENDS


.SUBCKT EKHE451VSN521MQ50Z_105deg-C 1 2
C1 4 2 4.81e-04
C2 5 2 1.74e-05
C3 6 2 1.08e-05
C4 7 2 8.85e-06
R1 3 4 2.52e-02
R2 4 5 1.27e+01
R3 5 6 1.82e+02
R4 6 7 1.01e+03
L1 1 3 2.66e-09
.ENDS

*$
