*$
*//-----------------------------------------------------------------------//
*//   Part	No.          : EKHE451VSN102MR60Z
*//   Date		: 2024/03/13
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHE451VSN102MR60Z_20deg-C 1 2
C1 4 2 1.50e-05
C2 5 2 6.15e-04
C3 6 2 2.04e-04
C4 7 2 6.47e-05
R1 3 4 6.33e-02
R2 4 5 5.63e-02
R3 5 6 1.51e-01
R4 6 7 1.40e+01
L1 1 3 2.80e-09
.ENDS


.SUBCKT EKHE451VSN102MR60Z_-40deg-C 1 2
C1 4 2 1.27e-06
C2 5 2 5.26e-06
C3 6 2 7.51e-05
C4 7 2 5.82e-04
R1 3 4 6.48e-01
R2 4 5 1.09e+01
R3 5 6 1.29e+01
R4 6 7 6.25e+00
L1 1 3 2.80e-09
.ENDS


.SUBCKT EKHE451VSN102MR60Z_0deg-C 1 2
C1 4 2 1.19e-05
C2 5 2 6.09e-04
C3 6 2 2.18e-04
C4 7 2 4.92e-05
R1 3 4 1.96e-01
R2 4 5 2.08e-01
R3 5 6 7.69e-01
R4 6 7 5.00e+01
L1 1 3 2.80e-09
.ENDS


.SUBCKT EKHE451VSN102MR60Z_60deg-C 1 2
C1 4 2 8.36e-04
C2 5 2 6.70e-05
C3 6 2 1.00e-10
C4 7 2 3.20e-05
R1 3 4 3.37e-02
R2 4 5 8.97e-01
R3 5 6 3.12e+01
R4 6 7 6.42e+01
L1 1 3 2.80e-09
.ENDS


.SUBCKT EKHE451VSN102MR60Z_105deg-C 1 2
C1 4 2 6.91e-04
C2 5 2 2.28e-04
C3 6 2 2.82e-05
C4 7 2 2.24e-05
R1 3 4 2.03e-02
R2 4 5 6.11e-02
R3 5 6 3.96e+01
R4 6 7 4.99e+02
L1 1 3 2.80e-09
.ENDS

*$
