*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHE451VSN511MR35Z
*//   Date		: 2024/03/25
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHE451VSN511MR35Z_20deg-C 1 2
C1 4 2 1.20e-05
C2 5 2 3.23e-04
C3 6 2 1.21e-04
C4 7 2 1.86e-05
R1 3 4 1.83e-01
R2 4 5 1.31e-01
R3 5 6 7.34e-01
R4 6 7 1.10e+02
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHE451VSN511MR35Z_-40deg-C 1 2
C1 4 2 6.30e-07
C2 5 2 2.20e-06
C3 6 2 3.20e-05
C4 7 2 2.68e-04
R1 3 4 1.30e+00
R2 4 5 2.50e+01
R3 5 6 3.80e+01
R4 6 7 2.10e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHE451VSN511MR35Z_0deg-C 1 2
C1 4 2 1.54e-06
C2 5 2 1.75e-05
C3 6 2 3.22e-04
C4 7 2 1.22e-04
R1 3 4 1.83e-01
R2 4 5 7.01e-01
R3 5 6 3.28e-01
R4 6 7 5.01e+00
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHE451VSN511MR35Z_60deg-C 1 2
C1 4 2 7.86e-05
C2 5 2 3.26e-04
C3 6 2 7.00e-05
C4 7 2 1.40e-05
R1 3 4 7.17e-02
R2 4 5 2.00e-05
R3 5 6 6.00e-01
R4 6 7 3.00e+02
L1 1 3 3.00e-10
.ENDS


.SUBCKT EKHE451VSN511MR35Z_105deg-C 1 2
C1 4 2 2.96e-04
C2 5 2 1.72e-04
C3 6 2 2.22e-05
C4 7 2 1.63e-05
R1 3 4 3.68e-02
R2 4 5 5.23e-02
R3 5 6 5.07e+00
R4 6 7 3.00e+02
L1 1 3 1.00e-08
.ENDS


*$
