*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHE451VSN791MR50Z
*//   Date		: 2024/03/13
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHE451VSN791MR50Z_20deg-C 1 2
C1 4 2 4.33e-05
C2 5 2 6.28e-04
C3 6 2 5.13e-05
C4 7 2 6.76e-09
R1 3 4 1.20e-01
R2 4 5 5.57e-02
R3 5 6 1.39e+01
R4 6 7 1.08e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHE451VSN791MR50Z_-40deg-C 1 2
C1 4 2 1.02e-06
C2 5 2 4.29e-06
C3 6 2 6.46e-05
C4 7 2 4.29e-04
R1 3 4 8.66e-01
R2 4 5 1.52e+01
R3 5 6 1.86e+01
R4 6 7 9.23e+00
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHE451VSN791MR50Z_0deg-C 1 2
C1 4 2 8.39e-06
C2 5 2 5.09e-04
C3 6 2 1.13e-04
C4 7 2 8.40e-05
R1 3 4 2.70e-01
R2 4 5 3.27e-01
R3 5 6 1.56e+00
R4 6 7 1.00e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHE451VSN791MR50Z_60deg-C 1 2
C1 4 2 1.91e-04
C2 5 2 5.35e-04
C3 6 2 1.78e-05
C4 7 2 3.24e-06
R1 3 4 3.84e-02
R2 4 5 1.14e-02
R3 5 6 6.97e+01
R4 6 7 3.05e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHE451VSN791MR50Z_105deg-C 1 2
C1 4 2 5.48e-04
C2 5 2 1.93e-04
C3 6 2 1.00e-10
C4 7 2 3.08e-05
R1 3 4 2.32e-02
R2 4 5 7.67e-02
R3 5 6 2.94e+01
R4 6 7 3.38e+01
L1 1 3 5.00e-09
.ENDS

*$
