*$
*//-----------------------------------------------------------------------//
*//  Part	No.	: EKHJ401VSN681MA51M
*//   Date		: 2024/03/27
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHJ401VSN681MA51M_20deg-C 1 2
C1 4 2 4.28e-05
C2 5 2 5.41e-04
C3 6 2 2.87e-05
C4 7 2 1.52e-05
R1 3 4 6.40e-02
R2 4 5 2.21e-02
R3 5 6 7.46e+00
R4 6 7 2.00e+03
L1 1 3 1.00e-08
.ENDS


.SUBCKT EKHJ401VSN681MA51M_60deg-C 1 2
C1 4 2 6.08e-04
C2 5 2 8.04e-06
C3 6 2 6.96e-06
C4 7 2 4.32e-06
R1 3 4 2.21e-02
R2 4 5 1.09e-03
R3 5 6 3.00e+02
R4 6 7 4.00e+02
L1 1 3 1.00e-08
.ENDS


.SUBCKT EKHJ401VSN681MA51M_105deg-C 1 2
C1 4 2 6.25e-04
C2 5 2 1.00e-10
C3 6 2 1.00e-10
C4 7 2 1.24e-05
R1 3 4 1.31e-02
R2 4 5 2.00e+01
R3 5 6 2.27e-03
R4 6 7 1.50e+02
L1 1 3 1.00e-08
.ENDS

*$
