*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHJ451VSN331MA35M
*//   Date		: 2024/03/15
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHJ451VSN331MA35M_20deg-C 1 2
C1 4 2 4.34e-05
C2 5 2 2.41e-04
C3 6 2 1.15e-05
C4 7 2 4.35e-06
R1 3 4 1.55e-01
R2 4 5 6.18e-02
R3 5 6 1.10e+01
R4 6 7 1.20e+03
L1 1 3 6.00e-09
.ENDS


.SUBCKT EKHJ451VSN331MA35M_-40deg-C 1 2
C1 4 2 5.71e-07
C2 5 2 2.61e-06
C3 6 2 3.20e-05
C4 7 2 2.39e-04
R1 3 4 1.18e+00
R2 4 5 1.11e+01
R3 5 6 1.52e+01
R4 6 7 1.03e+01
L1 1 3 6.00e-09
.ENDS


.SUBCKT EKHJ451VSN331MA35M_60deg-C 1 2
C1 4 2 2.99e-04
C2 5 2 1.00e-10
C3 6 2 1.00e-10
C4 7 2 6.22e-06
R1 3 4 4.20e-02
R2 4 5 1.06e+01
R3 5 6 1.97e+01
R4 6 7 3.86e+02
L1 1 3 6.00e-09
.ENDS


.SUBCKT EKHJ451VSN331MA35M_105deg-C 1 2
C1 4 2 3.00e-04
C2 5 2 4.58e-06
C3 6 2 4.22e-06
C4 7 2 3.50e-06
R1 3 4 1.80e-02
R2 4 5 1.24e+01
R3 5 6 1.99e+02
R4 6 7 2.00e+03
L1 1 3 6.00e-09
.ENDS

*$
