*$
*//-----------------------------------------------------------------------//
*//   Part		: EKHJ451VSN661MA59M
*//   Date		: 2024/05/28
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/60deg-C/105deg-C/
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHJ451VSN661MA59M_20deg-C 1 2
C1 4 2 1.00e-10
C2 5 2 6.09e-04
C3 6 2 3.99e-09
C4 7 2 4.20e-09
R1 3 4 5.80e-02
R2 4 5 4.20e-02
R3 5 6 1.38e+01
R4 6 7 2.80e+01
L1 1 3 6.00e-09
.ENDS

.SUBCKT EKHJ451VSN661MA59M_60deg-C 1 2
C1 4 2 6.07e-04
C2 5 2 1.00e-10
C3 6 2 1.00e-10
C4 7 2 1.32e-05
R1 3 4 2.05e-02
R2 4 5 2.04e+01
R3 5 6 3.27e+01
R4 6 7 3.28e+01
L1 1 3 6.00e-09
.ENDS

.SUBCKT EKHJ451VSN661MA59M_105deg-C 1 2
C1 4 2 6.21e-04
C2 5 2 1.00e-10
C3 6 2 1.00e-10
C4 7 2 1.31e-05
R1 3 4 1.28e-02
R2 4 5 1.00e-07
R3 5 6 5.27e+01
R4 6 7 5.31e+01
L1 1 3 6.00e-09
.ENDS

*$