*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHJ401VSN281MR35M
*//   Date		: 2024/03/15
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHJ401VSN281MR35M_20deg-C 1 2
C1 4 2 7.02e-06
C2 5 2 1.98e-04
C3 6 2 1.00e-10
C4 7 2 1.28e-05
R1 3 4 1.23e-01
R2 4 5 9.50e-02
R3 5 6 8.38e+00
R4 6 7 1.43e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHJ401VSN281MR35M_-40deg-C 1 2
C1 4 2 3.65e-07
C2 5 2 2.14e-06
C3 6 2 4.38e-05
C4 7 2 1.56e-04
R1 3 4 1.52e+00
R2 4 5 1.47e+01
R3 5 6 1.40e+01
R4 6 7 7.80e+00
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHJ401VSN281MR35M_60deg-C 1 2
C1 4 2 2.17e-04
C2 5 2 3.56e-06
C3 6 2 1.00e-10
C4 7 2 2.88e-06
R1 3 4 4.56e-02
R2 4 5 1.52e+02
R3 5 6 1.51e+02
R4 6 7 1.66e+03
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHJ401VSN281MR35M_105deg-C 1 2
C1 4 2 2.01e-04
C2 5 2 2.10e-05
C3 6 2 4.21e-06
C4 7 2 2.95e-06
R1 3 4 1.91e-02
R2 4 5 8.78e-05
R3 5 6 2.00e+02
R4 6 7 4.00e+03
L1 1 3 5.00e-09
.ENDS

*$
