*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHJ451VSN241MR35M
*//   Date		: 2024/03/15
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHJ451VSN241MR35M_20deg-C 1 2
C1 4 2 4.35e-05
C2 5 2 1.39e-04
C3 6 2 1.59e-05
C4 7 2 3.47e-06
R1 3 4 2.40e-01
R2 4 5 1.10e-01
R3 5 6 1.37e+01
R4 6 7 1.99e+03
L1 1 3 1.00e-08
.ENDS


.SUBCKT EKHJ451VSN241MR35M_-40deg-C 1 2
C1 4 2 3.06e-07
C2 5 2 1.77e-06
C3 6 2 2.62e-05
C4 7 2 1.33e-04
R1 3 4 1.97e+00
R2 4 5 2.01e+01
R3 5 6 2.21e+01
R4 6 7 1.66e+01
L1 1 3 1.00e-08
.ENDS


.SUBCKT EKHJ451VSN241MR35M_60deg-C 1 2
C1 4 2 1.92e-04
C2 5 2 1.02e-05
C3 6 2 3.96e-06
C4 7 2 4.49e-06
R1 3 4 6.24e-02
R2 4 5 7.00e+00
R3 5 6 5.00e+02
R4 6 7 4.50e+03
L1 1 3 1.00e-08
.ENDS


.SUBCKT EKHJ451VSN241MR35M_105deg-C 1 2
C1 4 2 2.00e-04
C2 5 2 2.60e-06
C3 6 2 5.37e-06
C4 7 2 4.28e-06
R1 3 4 3.01e-02
R2 4 5 4.41e-04
R3 5 6 9.00e+01
R4 6 7 1.40e+03
L1 1 3 1.00e-08
.ENDS

*$
