*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHU4H1VSN661MR55S
*//   Date		: 2024/03/25
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHU4H1VSN661MR55S_20deg-C 1 2
C1 4 2 1.43e-04
C2 5 2 3.52e-04
C3 6 2 7.45e-05
C4 7 2 1.16e-05
R1 3 4 8.57e-02
R2 4 5 3.28e-02
R3 5 6 1.50e+00
R4 6 7 3.10e+02
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKHU4H1VSN661MR55S_-40deg-C 1 2
C1 4 2 9.27e-07
C2 5 2 4.76e-06
C3 6 2 5.88e-05
C4 7 2 3.87e-04
R1 3 4 6.59e-01
R2 4 5 6.86e+00
R3 5 6 8.46e+00
R4 6 7 6.11e+00
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU4H1VSN661MR55S_60deg-C 1 2
C1 4 2 5.13e-04
C2 5 2 7.02e-05
C3 6 2 1.09e-05
C4 7 2 1.00e-03
R1 3 4 3.06e-02
R2 4 5 4.90e-01
R3 5 6 1.50e+02
R4 6 7 2.00e+03
L1 1 3 7.00e-09
.ENDS


.SUBCKT EKHU4H1VSN661MR55S_105deg-C 1 2
C1 4 2 5.20e-04
C2 5 2 7.56e-05
C3 6 2 1.21e-05
C4 7 2 9.99e-04
R1 3 4 2.10e-02
R2 4 5 3.50e-01
R3 5 6 1.50e+02
R4 6 7 2.00e+03
L1 1 3 7.50e-09
.ENDS


*$
