*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHU501VSN1B2MA80S
*//   Date		: 2024/03/25
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHU501VSN1B2MA80S_20deg-C 1 2
C1 4 2 3.45e-04
C2 5 2 6.70e-04
C3 6 2 1.10e-04
C4 7 2 1.70e-05
R1 3 4 4.80e-02
R2 4 5 2.00e-02
R3 5 6 1.30e+00
R4 6 7 3.00e+02
L1 1 3 3.00e-09
.ENDS


.SUBCKT EKHU501VSN1B2MA80S_-40deg-C 1 2
C1 4 2 2.08e-06
C2 5 2 8.16e-06
C3 6 2 6.68e-05
C4 7 2 8.06e-04
R1 3 4 3.90e-01
R2 4 5 3.66e+00
R3 5 6 3.58e+00
R4 6 7 3.67e+00
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU501VSN1B2MA80S_60deg-C 1 2
C1 4 2 9.95e-04
C2 5 2 1.30e-04
C3 6 2 3.00e-05
C4 7 2 1.80e-05
R1 3 4 2.10e-02
R2 4 5 9.50e-02
R3 5 6 9.30e+00
R4 6 7 3.00e+02
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU501VSN1B2MA80S_105deg-C 1 2
C1 4 2 8.55e-04
C2 5 2 2.90e-04
C3 6 2 3.20e-05
C4 7 2 2.00e-05
R1 3 4 1.60e-02
R2 4 5 3.70e-02
R3 5 6 9.30e+00
R4 6 7 3.00e+02
L1 1 3 7.50e-09
.ENDS


*$
