*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHU501VSN861MA60S
*//   Date		: 2024/03/25
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHU501VSN861MA60S_20deg-C 1 2
C1 4 2 2.14e-04
C2 5 2 5.23e-04
C3 6 2 5.41e-05
C4 7 2 1.54e-05
R1 3 4 6.45e-02
R2 4 5 2.29e-02
R3 5 6 2.00e+00
R4 6 7 3.00e+02
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU501VSN861MA60S_-40deg-C 1 2
C1 4 2 1.28e-06
C2 5 2 6.14e-06
C3 6 2 7.13e-05
C4 7 2 5.88e-04
R1 3 4 4.92e-01
R2 4 5 5.70e+00
R3 5 6 7.19e+00
R4 6 7 5.15e+00
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU501VSN861MA60S_0deg-C 1 2
C1 4 2 4.50e-05
C2 5 2 6.19e-04
C3 6 2 8.77e-05
C4 7 2 4.12e-05
R1 3 4 1.56e-01
R2 4 5 9.78e-02
R3 5 6 1.00e+00
R4 6 7 2.00e+01
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU501VSN861MA60S_60deg-C 1 2
C1 4 2 7.07e-04
C2 5 2 1.00e-04
C3 6 2 1.69e-05
C4 7 2 9.97e-04
R1 3 4 2.70e-02
R2 4 5 3.17e-01
R3 5 6 1.50e+02
R4 6 7 2.00e+03
L1 1 3 1.50e-08
.ENDS


.SUBCKT EKHU501VSN861MA60S_105deg-C 1 2
C1 4 2 5.49e-04
C2 5 2 2.75e-04
C3 6 2 1.86e-05
C4 7 2 9.98e-04
R1 3 4 1.90e-02
R2 4 5 6.74e-02
R3 5 6 1.50e+02
R4 6 7 2.00e+03
L1 1 3 1.40e-08
.ENDS


*$
