*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHU501VSN871MR80S
*//   Date		: 2024/03/27
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHU501VSN871MR80S_20deg-C 1 2
C1 4 2 1.80e-04
C2 5 2 6.00e-04
C3 6 2 6.50e-05
C4 7 2 3.50e-05
R1 3 4 5.50e-02
R2 4 5 3.00e-02
R3 5 6 5.00e+00
R4 6 7 2.00e+03
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU501VSN871MR80S_-40deg-C 1 2
C1 4 2 1.36e-06
C2 5 2 6.53e-06
C3 6 2 7.74e-05
C4 7 2 5.54e-04
R1 3 4 4.63e-01
R2 4 5 5.10e+00
R3 5 6 6.49e+00
R4 6 7 4.65e+00
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKHU501VSN871MR80S_60deg-C 1 2
C1 4 2 8.11e-04
C2 5 2 1.96e-05
C3 6 2 1.09e-05
C4 7 2 1.95e-04
R1 3 4 2.30e-02
R2 4 5 3.43e+01
R3 5 6 9.00e+02
R4 6 7 1.00e+04
L1 1 3 8.44e-09
.ENDS


.SUBCKT EKHU501VSN871MR80S_105deg-C 1 2
C1 4 2 8.51e-04
C2 5 2 2.02e-05
C3 6 2 1.29e-05
C4 7 2 1.00e-10
R1 3 4 1.60e-02
R2 4 5 3.45e+01
R3 5 6 7.30e+02
R4 6 7 1.10e+02
L1 1 3 7.50e-09
.ENDS


*$
