*$
*//-----------------------------------------------------------------------//
*//   Part        : EKMQ500VSN103MA30S
*//   Date        : 2023/04/07
*//   Temperature : 20deg.C/-40deg.C/-25deg.C/85deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMQ500VSN103MA30S_20deg-C 1 2

C1 4 2 8.25e-03
C2 5 2 5.39e-04
C3 6 2 1.54e-04
R1 3 4 1.28e-02
R2 4 5 2.78e-01
R3 5 6 8.96e+00
L1 1 3 1.60e-08

.ENDS

.SUBCKT EKMQ500VSN103MA30S_-40deg-C 1 2

C1 4 2 1.24e-05
C2 5 2 9.23e-04
C3 6 2 6.25e-03
R1 3 4 2.09e-01
R2 4 5 1.56e-01
R3 5 6 9.13e-02
L1 1 3 1.60e-08

.ENDS

.SUBCKT EKMQ500VSN103MA30S_-25deg-C 1 2

C1 4 2 1.94e-03
C2 5 2 5.54e-03
C3 6 2 9.70e-04
R1 3 4 8.86e-02
R2 4 5 2.19e-02
R3 5 6 5.30e-01
L1 1 3 1.60e-08

.ENDS

.SUBCKT EKMQ500VSN103MA30S_85deg-C 1 2

C1 4 2 5.95e-03
C2 5 2 2.96e-03
C3 6 2 3.94e-04
R1 3 4 7.50e-03
R2 4 5 2.12e-02
R3 5 6 7.74e-03
L1 1 3 1.60e-08

.ENDS

.SUBCKT EKMQ500VSN103MA30S_105deg-C 1 2

C1 4 2 4.82e-03
C2 5 2 4.21e-03
C3 6 2 2.52e-04
R1 3 4 7.69e-03
R2 4 5 1.29e-02
R3 5 6 1.77e-05
L1 1 3 1.60e-08

.ENDS
*$