*$
*//-----------------------------------------------------------------------//
*//   Part        : EKMR451VSN151MQ25S
*//   Date        : 2022/03/25
*//   Temperature : 20deg.C/0deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMR451VSN151MQ25S_20deg-C 1 2

C1 4 2 1.75e-05
C2 5 2 9.94e-05
C3 6 2 6.73e-06
R1 3 4 5.90e-01
R2 4 5 2.53e-01
R3 5 6 1.18e-01
L1 1 3 1.00e-08

.ENDS

.SUBCKT EKMR451VSN151MQ25S_0deg-C 1 2

C1 4 2 1.65e-06
C2 5 2 9.69e-05
C3 6 2 2.64e-05
R1 3 4 1.07e+00
R2 4 5 1.48e+00
R3 5 6 5.28e+00
L1 1 3 1.00e-08

.ENDS

.SUBCKT EKMR451VSN151MQ25S_105deg-C 1 2

C1 4 2 1.15e-04
C2 5 2 1.64e-05
C3 6 2 4.20e-06
R1 3 4 6.42e-02
R2 4 5 5.70e-01
R3 5 6 1.37e+02
L1 1 3 1.00e-08

.ENDS
*$