*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKMR451VSN271MR30S
*//   Date		: 2024/03/13
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMR451VSN271MR30S_20deg-C 1 2
C1 4 2 1.20e-04
C2 5 2 1.17e-04
C3 6 2 1.00e-10
C4 7 2 1.00e-10
R1 3 4 3.27e-01
R2 4 5 2.77e-01
R3 5 6 1.56e+00
R4 6 7 1.00e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKMR451VSN271MR30S_-40deg-C 1 2
C1 4 2 3.47e-07
C2 5 2 1.48e-06
C3 6 2 2.36e-05
C4 7 2 1.88e-04
R1 3 4 2.42e+00
R2 4 5 1.92e+01
R3 5 6 2.09e+01
R4 6 7 1.15e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKMR451VSN271MR30S_60deg-C 1 2
C1 4 2 1.00e-10
C2 5 2 2.31e-04
C3 6 2 1.00e-10
C4 7 2 1.38e-05
R1 3 4 6.18e-02
R2 4 5 2.65e-02
R3 5 6 1.39e+01
R4 6 7 1.08e+01
L1 1 3 5.00e-09
.ENDS


.SUBCKT EKMR451VSN271MR30S_105deg-C 1 2
C1 4 2 2.48e-04
C2 5 2 1.00e-06
C3 6 2 1.00e-06
C4 7 2 1.00e-05
R1 3 4 5.58e-02
R2 4 5 7.82e-02
R3 5 6 2.94e+01
R4 6 7 3.38e+01
L1 1 3 5.00e-09
.ENDS

*$
