*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKMR451VSN471MR45S
*//   Date		: 2024/03/12
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMR451VSN471MR45S_20deg-C 1 2
C1 4 2 2.25e-05
C2 5 2 3.45e-04
C3 6 2 3.80e-05
C4 7 2 1.20e-05
R1 3 4 1.65e-01
R2 4 5 7.00e-02
R3 5 6 5.00e+00
R4 6 7 2.00e+03
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKMR451VSN471MR45S_-40deg-C 1 2
C1 4 2 5.30e-07
C2 5 2 2.00e-06
C3 6 2 2.50e-05
C4 7 2 3.35e-04
R1 3 4 1.10e+00
R2 4 5 1.25e+01
R3 5 6 1.20e+01
R4 6 7 8.50e+00
L1 1 3 7.50e-09
.ENDS


.SUBCKT EKMR451VSN471MR45S_105deg-C 1 2
C1 4 2 4.10e-04
C2 5 2 1.20e-05
C3 6 2 2.50e-06
C4 7 2 5.50e-06
R1 3 4 3.50e-02
R2 4 5 3.80e+01
R3 5 6 5.30e+02
R4 6 7 3.30e+02
L1 1 3 7.50e-09
.ENDS

*$
