*$
*//-----------------------------------------------------------------------//
*//   Part        : EKMS601VSN271MA50S
*//   Date        : 2020/11/13
*//   Temperature : 20deg.C/105deg.C
*//   Model       : RC-ladder 7 or 9 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKMS601VSN271MA50S_20deg-C 1 2

C1 4 2 1.50e-05
C2 5 2 2.33e-04
C3 6 2 4.00e-06
R1 3 4 1.60e-01
R2 4 5 1.30e-01
R3 5 6 1.20e+03
L1 1 3 6.05e-09


.ENDS

.SUBCKT EKMS601VSN271MA50S_105deg-C 1 2

C1 4 2 2.40e-04
C2 5 2 1.90e-05
C3 6 2 6.00e-06
C4 7 2 4.00e-06
R1 3 4 2.90e-02
R2 4 5 8.00e+01
R3 5 6 2.40e+02
R4 6 7 8.20e+02
L1 1 3 6.50e-09


.ENDS
*$
