*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: ELHJ401VSN671MA51M
*//   Date		: 2024/03/15
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELHJ401VSN671MA51M_20deg-C 1 2
C1 4 2 4.07e-05
C2 5 2 5.21e-04
C3 6 2 4.67e-05
C4 7 2 9.59e-06
R1 3 4 6.85e-02
R2 4 5 2.54e-02
R3 5 6 1.33e+00
R4 6 7 5.00e+02
L1 1 3 6.00e-09
.ENDS


.SUBCKT ELHJ401VSN671MA51M_-40deg-C 1 2
C1 4 2 9.69e-07
C2 5 2 5.22e-06
C3 6 2 9.22e-05
C4 7 2 4.71e-04
R1 3 4 5.92e-01
R2 4 5 5.57e+00
R3 5 6 5.63e+00
R4 6 7 3.06e+00
L1 1 3 6.00e-09
.ENDS


.SUBCKT ELHJ401VSN671MA51M_60deg-C 1 2
C1 4 2 5.47e-04
C2 5 2 7.04e-05
C3 6 2 1.00e-10
C4 7 2 1.21e-05
R1 3 4 2.37e-02
R2 4 5 1.00e-07
R3 5 6 1.29e+01
R4 6 7 2.58e+02
L1 1 3 6.00e-09
.ENDS


.SUBCKT ELHJ401VSN671MA51M_105deg-C 1 2
C1 4 2 5.49e-04
C2 5 2 7.85e-05
C3 6 2 5.83e-06
C4 7 2 8.84e-06
R1 3 4 1.38e-02
R2 4 5 2.06e-03
R3 5 6 1.08e+02
R4 6 7 3.03e+02
L1 1 3 6.00e-09
.ENDS

*$
