*$
*//-----------------------------------------------------------------------//
*//   Part		: ELHS451VSN681MA50S
*//   Date		: 2024/05/28
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/105deg-C/
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ELHS451VSN681MA50S_20deg-C 1 2
C1 4 2 3.36e-05
C2 5 2 4.57e-04
C3 6 2 1.17e-04
C4 7 2 2.42e-05
R1 3 4 1.38e-01
R2 4 5 4.65e-02
R3 5 6 2.14e-01
R4 6 7 6.23e+01
L1 1 3 5.00e-09
.ENDS

.SUBCKT ELHS451VSN681MA50S_105deg-C 1 2
C1 4 2 6.42e-04
C2 5 2 1.00e-10
C3 6 2 1.00e-10
C4 7 2 2.36e-05
R1 3 4 3.35e-02
R2 4 5 2.78e+01
R3 5 6 2.80e+01
R4 6 7 2.80e+01
L1 1 3 5.00e-09
.ENDS

*$